US08536210B2
Step 3: 2-(4-Methoxybenzyl)-5-morpholino-3-oxo-2,3-dihydropyridazine-4-carbaldehyde
A solution of 2-(4-methoxybenzyl)-5-(morpholin-4-yl)pyridazin-3(2H)-one (6.22 g, 20.60 mmol) in dry DMF (60 ml) was cooled to 5° C., then a solution of POCl3 (4.21 ml, 45.1 mmol) in dry DMF (12 ml) was added dropwise. The cooling bath was removed and the mixture was stirred at room temperature for 30 min. Then, the temperature was raised to 70° C. and stirring was continued for 80 min. After cooling, the volatile components were removed under reduced pressure and the residue was treated with crushed ice (70 g). The mixture was adjusted to pH 7-8 with aqueous NaOH. Then it was extracted with ethyl acetate (2×60 ml) and the combined extracts were washed with water, dried (Na2SO4) and evaporated. The crude product was purified by crystallization from ethanol (95%).

reactant | 2-(4-methoxybenzyl)-5-(morpholin-4-yl)pyridazin-3(2H)-one | 20.60 mmol, 6.22 g | COC1=CC=C(CN2N=CC(=CC2=O)N2CCOCC2)C=C1 | C16H19N3O3
reactant | POCl3 | 45.1 mmol, 4.21 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 2-(4-Methoxybenzyl)-5-morpholino-3-oxo-2,3-dihydropyridazine-4-carbaldehyde | COC1=CC=C(CN2N=CC(=C(C2=O)C=O)N2CCOCC2)C=C1 | C17H19N3O4
